US04071621
To a stirred solution of 4.80 g of N-(2-ethylthioethyl)-glycine tert-butyl ester in 40 ml of chloroform was carefully added N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride obtained above. The reaction mixture was allowed to stand at room temperature overnight. The reaction mixture was washed twice with 20 ml of saturated sodium chloride solution and evaporated to dryness. The residue was triturated with a small amount of water to give a powder. This was collected by filtration and reprecipitated with ethanol-diethyl ether to give 5.00 g of N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-ethylthioethyl)glycine tert-butyl ester.

reactant | N-(2-ethylthioethyl)-glycine tert-butyl ester | 4.80 g | C(C)(C)(C)OC(CNCCSCC)=O | C10H21NO2S
reactant | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride | N#N.Cl.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-ethylthioethyl)glycine tert-butyl ester | 5.00 g | N#N.C(C)(C)(C)OC(CN(CCSCC)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)=O | InChI=1S/C28H43N5O7S2.N2/c1-7-41-14-13-33(18-25(34)40-28(2,3)4)26(35)22(9-8-12-31-27(29)30)32-42(36,37)21-11-10-19-16-23(38-5)24(39-6)17-20(19)15-21;1-2/h10-11,15-17,22,32H,7-9,12-14,18H2,1-6H3,(H4,29,30,31);/t22-;/m0./s1
